US05278186
A mixture of 3-amino-6-chloro-7-methyl-4-(2-methylphenyl)-2H-benzopyran-2- one (297 mg), 3-trifluoromethylphenylisocyanate (374 mg) and benzene (4 ml) was refluxed for 2 hours and then distilled to remove the solvent. The residue was crystallized from ethyl ether. The resulting crystals were recrystallized from ethanol to obtain colorless needles of N-[6-chloro-7-methyl-4-(2-methylphenyl)-2-oxo- 2H-1-benzopyran-3-yl]-N'-(3-trifluoromethylphenyl) urea.

reactant | 3-amino-6-chloro-7-methyl-4-(2-methylphenyl)-2H-benzopyran-2- one | 297 mg | NC=1C(OC2=C(C1C1=C(C=CC=C1)C)C=C(C(=C2)C)Cl)=O | C17H14ClNO2
reactant | 3-trifluoromethylphenylisocyanate | 374 mg | FC(C=1C=C(C=CC1)N=C=O)(F)F | C8H4F3NO
solvent | benzene | 4 ml | C1=CC=CC=C1 | C6H6
product | N-[6-chloro-7-methyl-4-(2-methylphenyl)-2-oxo- 2H-1-benzopyran-3-yl]-N'-(3-trifluoromethylphenyl) urea | ClC=1C(=CC2=C(C(=C(C(O2)=O)NC(=O)NC2=CC(=CC=C2)C(F)(F)F)C2=C(C=CC=C2)C)C1)C | C25H18ClF3N2O3
